*Ngspice Common Source Circuit
.lib "../../Models/libs.tech/ngspice/sky130.lib.spice" sf

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_05v0_nvt W=0.42 L=1.0
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 5.0


*****************
** Analysic
*****************
.control
set appendwrite

shell  rm -rf ./ngspice_results/sky130_fd_pr__nfet_05v0_nvt_dc_W_0.42_L_1.0_sf_ngspice.csv

DC v1 0 5.0 0.1
wrdata ./ngspice_results/sky130_fd_pr__nfet_05v0_nvt_dc_W_0.42_L_1.0_sf_ngspice.csv  -I(vdd)

.endc
.end
